US08076489B2
(3-tert-Butoxy-5-fluoro-phenyl)-thiocarbamic acid O-isopropyl ester
1-tert-Butoxy-3-fluoro-5-isothiocyanato-benzene (24.0 g) and triethylamine (10.9 g) are dissolved in iso-propanol (150 ml). The reaction mixture is refluxed for 18 hours and the solvent is removed by vacuo. The crude product is dissolved in hexane:diethyl ether (19:1). The diethyl ether is removed by vacuo and the solution is cooled to 0° C. for 3 hours. The solution is filtered to give the title compound. 1H nmr (CDCl3, 400 MHz); 8.10 (br s, 1H), 6.65 (br s, 2H), 6.45 (ddd, 1H) 5.60 (sept, 1H), 1.35 (d, 6H), 1.30 (s, 9H).

reactant | 1-tert-Butoxy-3-fluoro-5-isothiocyanato-benzene | 24.0 g | C(C)(C)(C)OC1=CC(=CC(=C1)N=C=S)F | C11H12FNOS
reactant | triethylamine | 10.9 g | C(C)N(CC)CC | C6H15N
reactant | iso-propanol | 150 ml | C(C)(C)O | C3H8O
product | (3-tert-Butoxy-5-fluoro-phenyl)-thiocarbamic acid O-isopropyl ester | C(C)(C)OC(NC1=CC(=CC(=C1)F)OC(C)(C)C)=S | C14H20FNO2S
